US09446034B2
A solution of 5-chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzonitrile (850 mg, 2.118 mmol) in sodium hydroxide −1 M (20 mL, 20.00 mmol) and 1,4-dioxane (20 mL) was refluxed overnight. Ethyl acetate was added and the layers were separated. The organic layer was washed with 1 M NaOH (40 ml). Combined aqueous layers were washed with ethyl acetate. The organic layers were combined, evaporated, dissolved in MeOH and evaporated again. 5-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid (800 mg, 1.903 mmol, 90% yield) was isolated as a yellow solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.28 (d, J=6.57 Hz, 6 H) 2.12 (s, 3 H) 4.40 (quin, J=6.51 Hz, 1 H) 5.97 (s, 1 H) 6.79 (s, 1 H) 7.56-7.62 (m, 1 H) 7.62-7.69 (m, 1 H) 7.94 (d, J=2.27 Hz, 1 H) 8.04 (s, 1 H) 8.58 (s, 1 H) 9.94 (br. s., 1 H) 13.97 (br. s., 1 H); HPLC Rt=2.65 min, MS (ESI): 420.2, 421.1 [M+H]+.

reactant | 5-chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzonitrile | 2.118 mmol, 850 mg | ClC=1C=CC(=C(C#N)C1)NC1=CC(=NC=C1Cl)NC1=CC(=NN1C(C)C)C | C19H18Cl2N6
reactant | sodium hydroxide | 20.00 mmol, −1 M, 20 mL | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid | 1.903 mmol, 800 mg, 90% yield | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC(=NC=C1Cl)NC1=CC(=NN1C(C)C)C | C19H19Cl2N5O2
